US07858632B2
To a cooled (0° C.) suspension of 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile (0.138 g, 0.461 mmol) in dry methanol (15 ml) was bubbled with HCl gas for 10 minutes and refrigerated overnight. Solvent was evaporated under reduced pressure to give a yellow solid which was redissolved in dry methanol (10 ml). Ethylene diamine (0.034 ml, 0.509 mmol) was added and the reaction mixture was refluxed for 20 hours and concentrated under reduced pressure. The residue was purified by silica gel chromatography (gradient: 7-50% methanol in methylene chloride/0.1% concentrated NH4OH) to yield 5-[5-(4,5-dihydro-1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine which was crystalized from methanol/ethyl acetate/ether as a white solid, (0.053 g, 33%).

reactant | 5-(2,4-diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile | 0.461 mmol, 0.138 g | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C#N)C1)OC)C(C)C | C15H17N5O2
reactant | Ethylene diamine | 0.509 mmol, 0.034 ml | C(CN)N | C2H8N2
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 5-[5-(4,5-dihydro-1H-imidazol-2-yl)-2-isopropyl-4-methoxy-phenoxy]-pyrimidine-2,4-diamine | N1C(=NCC1)C=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C17H22N6O2
